US06218404B1
1-(3-Hydroxypropyl)-4-(4-methoxybenzoyl)piperidine
1-Acetyl-4-(4-methoxybenzoyl)piperidine. To a suspension of aluminum trichloride (3.40 g, 25.7 mmol) in CS2 (15 mL) were added anisole (1.90 mL, 17.6 mmol) and, portionwise, N-acetylisonipecotoyl chloride (2.40 g, 11.7 mmol). After the addition was complete, the mixture was refluxed for 1 h. The solvent was decanted and the red residue was dissolved in 5% HCl (50 mL) and was extracted with EtOAc (4×30 mL). The combined organic phase was dried and was concentrated under reduced pressure to afford the title compound as a colorless solid (1.8 g, 60%):mp 102-105° C.; 1H NMR (CDCl3) d 1.50-1.75 (m, 1H), 1.70-2.00 (m, 3H), 2.10 (s, 3H), 2.70-2.90 (m, 1H), 3.15-3.30 (m, 1H), 3.40-3.53 (m, 1H), 3.86 (s, 3H), 3.85-4.00 (m, 1H), 4.56 (d, J=13.2 Hz, 1H), 6.94 (d, J=8.7 Hz, 2H), 7.92 (d, J=9.0 Hz, 2H).

reactant | 1-Acetyl-4-(4-methoxybenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)OC)=O | C15H19NO3
reactant | aluminum trichloride | 25.7 mmol, 3.40 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | anisole | 17.6 mmol, 1.90 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | N-acetylisonipecotoyl chloride | 11.7 mmol, 2.40 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
solvent | CS2 | 15 mL | C(=S)=S | CS2
product | 1-(3-Hydroxypropyl)-4-(4-methoxybenzoyl)piperidine | 1.8 g, 60% | OCCCN1CCC(CC1)C(C1=CC=C(C=C1)OC)=O | C16H23NO3
